### ISSUE TITLE
`grind` regression from 4.22.0-rc2 to 4.22.0-rc3

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#9216]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

```lean
import Std.Data.HashSet

open Std

example (seen : HashSet Int) (xs : List Int) (x : Int) (h : ¬-x ∈ seen) :
    (∃ a, a ∈ seen.insert x ∧ ∃ b, b ∈ xs ∧ a + b = 0) ↔
    (∃ y, y ∈ xs ∧ x + y = 0) ∨ ∃ a, a ∈ seen ∧ ∃ b, b ∈ x :: xs ∧ a + b = 0 := by

  -- In 4.22.0-rc2, the proof goes through without the `simp only`. In 4.22.0-rc3 and
  -- 4.23.0-nightly-2025-07-05, the `simp only` is required, otherwise `grind` fails.
  
  --simp only [HashSet.mem_insert]
  grind
```

### Steps to Reproduce

Build the code above with 4.22.0-rc2 and 4.22.0-rc3

**Expected behavior:** `grind` proves this theorem.

**Actual behavior:** `grind` needs help on 4.22.0-rc3.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by leodemoura** [comment]
This kind of failure is expected after we changed the pattern selection heuristic. To recover the previous behavior we must change the priority associated with `+`.
```lean
import Std.Data.HashSet
open Std

attribute [grind symbol default] HAdd.hAdd

example (seen : HashSet Int) (xs : List Int) (x : Int) (h : ¬-x ∈ seen) :
    (∃ a, a ∈ seen.insert x ∧ ∃ b, b ∈ xs ∧ a + b = 0) ↔
    (∃ y, y ∈ xs ∧ x + y = 0) ∨ ∃ a, a ∈ seen ∧ ∃ b, b ∈ x :: xs ∧ a + b = 0 := by
  grind
```

After preprocessing the following local hypotheses asserted
```
∀ (x_1 : Int), x_1 ∈ xs → ¬x + x_1 = 0 
∀ (x_1 : Int), x_1 ∈ seen.insert x → ∀ (x : Int), x ∈ xs → ¬x_1 + x = 0 
```
In v4.22.0-rc3, the terms `x + x_1` and `x_1 + x` are not selected as patterns because `+` is marked a low priority. The command `attribute [grind symbol default] HAdd.hAdd` reverts the behavior before v4.22.0-rc3. 

I am closing the issue because the system is working expected. Heuristic instantiation is a heuristic. In the future, we want to provide ways for users to better control which terms are selected as patterns. One trick people use in the SMT solving world is to create abstractions for important relations in a problem when they mention arithmetic. Example:
```lean
import Std.Data.HashSet
open Std

@[grind] def SumEq0 (a b : Int) : Prop := a + b = 0

example (seen : HashSet Int) (xs : List Int) (x : Int) (h : ¬-x ∈ seen) :
    (∃ a, a ∈ seen.insert x ∧ ∃ b, b ∈ xs ∧ SumEq0 a b) ↔
    (∃ y, y ∈ xs ∧ SumEq0 x y) ∨ ∃ a, a ∈ seen ∧ ∃ b, b ∈ x :: xs ∧ SumEq0 a b := by
  grind
```
